US04129556
(N,N'-Bis-(2-hydroxybenzyl)-dodecamethylenediamine)
30.0 g of a bisazomethine prepared from 2 mols of salicylaldehyde and 1 mol of 1,12-diaminododecane and having a melting point of 72°-73° C. are hydrogenated for 2 hours in 300 ml of isopropanol in an autoclave in the presence of 3 g of Raney nickel at 90°-100° C. and under a pressure of 60 atmospheres

reactant | salicylaldehyde | 2 mols | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | 1,12-diaminododecane | 1 mol | NCCCCCCCCCCCCN | C12H28N2
solvent | isopropanol | 300 ml | C(C)(C)O | C3H8O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | N,N'-Bis-(2-hydroxybenzyl)-dodecamethylenediamine | OC1=C(CNCCCCCCCCCCCCNCC2=C(C=CC=C2)O)C=CC=C1 | C26H40N2O2
